US06034248
1-[(1R,2S)-2-(2-Fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone (100 mg) was dissolved in dimethylformamide (4 ml), to which potassium carbonate (42 mg) was added, and the mixture was heated at 40° C. for 1 hour. The resultant was diluted with ethyl acetate (20 ml) and washed with water (10 ml) and a saturated aqueous solution of sodium chloride (10 ) successively. The organic layer was dried over magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel chromatography (eluent:hexane/ethyl acetate=1/4). The desired fraction was concentrated and the residue was recrystallized from diisopropyl ether to give 1-[(1R,2S)-2-(2-fluorophenyl)-2,3-epoxy-1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone (58 mg) as a colorless crystalline powder.

reactant | 1-[(1R,2S)-2-(2-Fluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone | 100 mg | FC1=C(C=CC=C1)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)N1N=NN=C1)=O)(COS(=O)(=O)C)O | C21H21FN6O5S
reactant | potassium carbonate | 42 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(1R,2S)-2-(2-fluorophenyl)-2,3-epoxy-1-methylpropyl]-3-[4-(1H-1-tetrazolyl)phenyl]-2(1H,3H)-imidazolone | 58 mg | FC1=C(C=CC=C1)[C@]1([C@@H](C)N2C(N(C=C2)C2=CC=C(C=C2)N2N=NN=C2)=O)CO1 | C20H17FN6O2
